US07732448B2
0.06 g of sodium hydride (60% oil suspension) was suspended in 1.5 ml of tetrahydrofuran. 0.3 ml of tetrahydrofuran solution of 0.08 g of 2-butyn-1-ol was added dropwise at room temperature therein, and the mixture was stirred for 10 minutes. Into the mixture was added dropwise 0.3 ml of tetrahydrofuran solution of 0.19 g of 6-chloro-4-(cis-2,6-dimethylpiperidino)pyrimidine at room temperature, and stirred for 6 hours at 60° C. After the reaction mixture was cooled to near room temperature, the reaction mixture was poured into a saturated ammonium chloride aqueous solution, and the mixture was extracted with tert-butyl methyl ether three times. The organic layers were washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to obtain 0.20 g of 4-(2-butynyloxy)-6-(cis-2,6-dimethylpiperidino)pyrimidine (hereinafter, referred to as Compound (48)).

reactant | sodium hydride | 0.06 g | [H-].[Na+]
reactant | 2-butyn-1-ol | 0.08 g | C(C#CC)O | C4H6O
reactant | 6-chloro-4-(cis-2,6-dimethylpiperidino)pyrimidine | 0.19 g | ClC1=CC(=NC=N1)N1[C@H](CCC[C@H]1C)C | C11H16ClN3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.3 ml | O1CCCC1 | C4H8O
product | 4-(2-butynyloxy)-6-(cis-2,6-dimethylpiperidino)pyrimidine | 0.20 g | C(C#CC)OC1=NC=NC(=C1)N1[C@H](CCC[C@H]1C)C | C15H21N3O
